US06632810B2
Synthesis of methyl 2-nitro-3,4,5-trimethoxybenzoate:
Methyl 3,4,5-trimethoxybenzoate (13.0 g) was dissolved in acetic anhydride (60 mL), a 1:20 mixed liquid (9 mL) of fuming nitric acid and concentrated nitric acid was slowly added dropwise at −10° C. to the solution, and the resultant mixture was stirred for 3 hours under ice cooling. Acetic anhydride was distilled off, water and an aqueous solution of potassium carbonate were added to the residue, and the mixture was stirred at room temperature for 40 minutes and then extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound.

reactant | Methyl 3,4,5-trimethoxybenzoate | 13.0 g | COC=1C=C(C(=O)OC)C=C(C1OC)OC | C11H14O5
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-nitro-3,4,5-trimethoxybenzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=C(C(=C1OC)OC)OC | C11H13NO7
